US07985755B2
Step 4: 5-[4-(2-Chlorobenzyl)cyclohexylmethoxy]quinazoline-2,4-diamine
Cyclization of 2-[4-(2-chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile (100 mg; 0.28 mmol) was carried out using Method F using guanidine carbonate (100 mg; 0.55 mmol) in 1.5 mL of dimethylacetamide. Title compound was obtained as a white solid. (88 mg; 79% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.27 (m, 7H), 6.75 (d, J=8.0 Hz, 1H), 6.50 (d, J=7.6 Hz, 1H), 5.97 (br s, 2H), 3.92 (d, J=5.6 Hz, 2H), 2.52 (d, J=7.2 Hz, 2H), 1.83 (m, 3H), 1.68 (m, 3H), 1.06 (m, 4H). MS m/z (ESI) 398 (M+H)+.

reactant | 2-[4-(2-chlorobenzyl)cyclohexylmethoxy]-6-fluorobenzonitrile | 0.28 mmol, 100 mg | ClC1=C(CC2CCC(CC2)COC2=C(C#N)C(=CC=C2)F)C=CC=C1 | C21H21ClFNO
reactant | guanidine carbonate | 0.55 mmol, 100 mg | C(O)(O)=O.NC(=N)N
solvent | dimethylacetamide | 1.5 mL | CC(=O)N(C)C | C4H9NO
product | 5-[4-(2-Chlorobenzyl)cyclohexylmethoxy]quinazoline-2,4-diamine | 79% yield | ClC1=C(CC2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=CC=C1 | C22H25ClN4O
